US06448270B1
A) 1-(3-Butynyl)-4-(4-chlorophenyl)-4-hydroxypiperidine
A mixture of 1-mesylbut-3-yne (1.48 g, 10.0 mmol), 4-(4-chlorophenyl)-4-hydroxypiperidine (2.54 g, 12.0 mmol) and K2CO3 (4.14 g, 30.0 mmol) in CH3CN (25 mL) is refluxed for 12 hr. The mixture is filtered and washed with EtOAc (3×30 mL). The filtrate is evaporated in vacuo and is purified by flash chromatography to give the product as a colorless solid (2.30 g, 87%): mp 98-100° C.; 1H NMR (CDCl3) 1.55 (s, 1 H), 1.74 (m, 2 H), 1.99 (m, 1 H), 2.10 (m, 2 H), 2.42 (m, 4 H), 2.65 (m, 2 H), 2.79 (m, 2 H), 7.32 (d, J=7.2 Hz, 2 H), 7.42 (d, J=7.2 Hz, 2 H).

reactant | 1-mesylbut-3-yne | 10.0 mmol, 1.48 g | S(=O)(=O)(C)CCC#C | C5H8O2S
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 12.0 mmol, 2.54 g | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | K2CO3 | 30.0 mmol, 4.14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | 1-(3-Butynyl)-4-(4-chlorophenyl)-4-hydroxypiperidine | 2.30 g, 87% | C(CC#C)N1CCC(CC1)(O)C1=CC=C(C=C1)Cl | C15H18ClNO
